US04806145
A mixture of 17.2 g (0.042 mole) of 1-(2,4-dibromo-5-methoxyphenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5-(1H)-one and 50.6 g (0.020 mole) of boron tribromide in 100 mL of methylene chloride was stirred at room temperature for 18 hours. The mixture was washed with 50 mL of water, and the organic phase was dried over anhydrous magnesium sulfate. This mixture was filtered, and the filtrate was evaporated under reduced pressure to yield 16.1 g of 1-(2,4-dibromo-5-hydroxyphenyl)4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5-(1H)-one as a solid.

reactant | 1-(2,4-dibromo-5-methoxyphenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5-(1H)-one | 0.042 mole, 17.2 g | BrC1=C(C=C(C(=C1)Br)OC)N1N=C(N(C1=O)C(F)F)C | C11H9Br2F2N3O2
reactant | boron tribromide | 0.020 mole, 50.6 g | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-(2,4-dibromo-5-hydroxyphenyl)4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5-(1H)-one | 16.1 g | BrC1=C(C=C(C(=C1)Br)O)N1N=C(N(C1=O)C(F)F)C | C10H7Br2F2N3O2
